US07884124B2
To a solution prepared by dissolving sodium (1.01 g, 44.07 mmol) in absolute EtOH (25 mL), was added 1H-pyrazole (2.5 g, 36.72 mmol). The solution was heated to gentle reflux, then allowed to cool to about 50° C. and treated with a catalytic amount of NaI (25 mg) followed by a slow addition of phenethyl bromide (6.0 mL, 44.07 mmol). The reaction was returned to reflux and after a few min, a white solid precipitated out of solution. After refluxing for 16 h, the solvent was removed by evaporation and the residue dissolved in water (30 mL) and extracted with EtOAc (4×50 mL). The combined organic extracts were washed with water and brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by flash chromatography (Isco CombiFlash) 0-20% EtOAc/heptane to afford 1-phenethyl-1H-pyrazole (1.56 g, 25%). 1H NMR (400 MHz, CDCl3) δ ppm 3.18 (t, J=7.28 Hz, 2H), 4.34-4.39 (m, 2H), 6.18 (t, J=2.06 Hz, 1H), 7.07-7.11 (m, 2H), 7.17 (d, J=2.20 Hz, 1H), 7.20-7.31 (m, 3H), 7.55 (d, J=1.74 Hz, 1H); LCMS-MS (ESI+) 172.86 (M+H).

reactant | sodium | 44.07 mmol, 1.01 g | [Na] | Na
reactant | 1H-pyrazole | 36.72 mmol, 2.5 g | N1N=CC=C1 | C3H4N2
reactant | phenethyl bromide | 44.07 mmol, 6.0 mL | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | NaI | 25 mg | [Na+].[I-]
product | 1-phenethyl-1H-pyrazole | 1.56 g, 25% | C(CC1=CC=CC=C1)N1N=CC=C1 | C11H12N2
